Vaja 3

vp 8 0 dc = 5
vn 4 0 dc = -5
vin 1 0 dc = 0	sin=(0, 0.201, 5k)

r1 2 8 r=40.48k
r2 2 3 r=31.62k
r3 3 4 r=54.4k
rs 4 5 r=5k
rd 7 8 r=5k

c1 1 3 c=100u
c2 2 0 c=100u
c3 5 0 c=100u

m1 6 3 5 5 testmodel w=2u l=1u
m2 7 2 6 6 testmodel w=2u l=1u	
.model testmodel nmos kp=0.5m vto=0.8 lambda=0.1m	

.control
	destroy all

	echo ------OP1-------
	op
	let idq = v(8,7)/@rd[r]
	let vdsq1 = v(6,5)
	let vdsq2 = v(7,6)
	let vgsq1 = v(3,5)
	let vgsq2 = v(2,6)
	let vg1	  = v(1)
	let vout = v(4)
	
	print idq vdsq1 vdsq2 vgsq1 vgsq2 vg1 
	

	echo ------TRAN1------
    tran 1u 5m
    	
    let idq = v(8,7)/@rd[r]
	let vdsq1 = v(6,5)
	let vdsq2 = v(7,6)
	let vgsq1 = v(3,5)
	let vgsq2 = v(2,6)
	let vout = v(7)
	let vin = v(1)
	
   	fourier 5k vout

	let vinpp = max(vin)-min(vin)
    let voutpp = max(vout)-min(vout)
    let av = voutpp/vinpp
    print av

	*izhodna upornost?
	
	plot vin vout xlabel 'time' ylabel 'vin, vout'
	
.endc
 
.end
